US04039676
The starting material is prepared as follows: The solution of 14.2 g of 2-(2,3-dihydrobenzofuran-2-yl)-acetic acid [Gazz. Chim. Ital. 93, 52 (1963)] in 100 ml of tetrahydrofuran is added dropwise to the suspension of 4.55 g of lithium aluminum hydride in 200 ml of tetrahydrofuran while stirring. The mixture is refluxed for 18 hours, then cooled in an ice-bath and decomposed by adding 4.5 ml of water, 4.5 ml 15% aqueous sodium hydroxide and 14.6 ml of water. It is filtered, evaporated and the residue taken up in ethyl acetate. The solution is washed with aqueous sodium bicarbonate, water and saturated aqueous sodium chloride, dried, evaporated and the residue distilled in a kugelrohr at 140°/0.1 mmHg, to yield the 2-(2-hydroxyethyl)-2,3-dihydrobenzofuran.

reactant | 2-(2,3-dihydrobenzofuran-2-yl)-acetic acid | 14.2 g | O1C(CC2=C1C=CC=C2)CC(=O)O | C10H10O3
reactant | lithium aluminum hydride | 4.55 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 4.5 ml | O | H2O
reactant | sodium hydroxide | 4.5 ml | [OH-].[Na+]
reactant | water | 14.6 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-(2-hydroxyethyl)-2,3-dihydrobenzofuran | OCCC1OC2=C(C1)C=CC=C2 | C10H12O2
